US04471116
In the manner described above for the preparation of 1-benzyloxy-4-(3-methylaminopropoxy)benzene, 1-benzyloxy-4-(3-bromopropyloxy)benzene was reacted with dimethylamine to give 1-benzyloxy-4-(3-dimethylaminopropoxy)benzene. The product was isolated as its hydrochloride salt and crystallization from isopropanol gave the purified hydrochloride salt of 1-benzyloxy-4-(3-dimethylaminopropoxy)benzene, mp 183°-185°.

reactant | 1-benzyloxy-4-(3-methylaminopropoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCNC | C17H21NO2
reactant | 1-benzyloxy-4-(3-bromopropyloxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCBr | C16H17BrO2
reactant | dimethylamine | CNC | C2H7N
product | 1-benzyloxy-4-(3-dimethylaminopropoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCN(C)C | C18H23NO2
